US07662402B2
1.4 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile was dissolved in 6 ml of a solution (1 mol/L) of tetrabutylammonium fluoride in tetrahydrofuran and then cooled to 0° C. Thereto 1.1 g of 2-bromo-3,3,3-trifluoropropene dissolved in 3 ml of tetrahydrofuran was added dropwise, and the mixture was stirred at room temperature for 8 hours and at 60° C. for 5 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.02 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)-2-(2-bromo-3,3,3-trifluoropropyl)malononitrile (hereinafter, referred to as the present compound (57)).

reactant | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 1.4 g | FC(CC(C#N)C#N)(C(C(C(F)F)(F)F)(F)F)F | C8H4F8N2
reactant | 2-bromo-3,3,3-trifluoropropene | 1.1 g | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)-2-(2-bromo-3,3,3-trifluoropropyl)malononitrile | 0.02 g | FC(CC(C#N)(C#N)CC(C(F)(F)F)Br)(C(C(C(F)F)(F)F)(F)F)F | C11H6BrF11N2
